US07112610B2
To (R)-2,6-dimethyl-non-2-ene (20 g, 0.13 mol) in acetone (433 mL) was added a solution of CrO3 (39 g, 0.39 mol) in H2SO4 (33 mL)/H2O (146 mL) over 50 minutes. After 6 hours a further amount of CrO3 (26 g, 0.26 mol) in H2SO4 (22 mL)/H2O (100 mL) was added. After 12 hours the solution was diluted with brine and the solution extracted with ether. The combined organic phases were dried (MgSO4) and concentrated. Flash chromatography (gradient of 6:1 to 2:1 hexane/EtOAc) gave (R)-4-methyl-heptanoic acid as an oil. 12.1 g; 65%. MS, m/z (relative intensity): 143 [M−H, 100%]; 1H NMR (400 MHz; CDCl3) δ2.35 (m, 2H), 1.6 (m, 1H), 1.4 (m, 1H), 1.3 (m, 4H), 1.1 (m, 1H), 0.85 (s, 6H).

reactant | (R)-2,6-dimethyl-non-2-ene | 0.13 mol, 20 g | CC(C)=CCC[C@@H](CCC)C | C11H22
reactant | H2O | 146 mL | O | H2O
reactant | H2O | 100 mL | O | H2O
reactant | acetone | 433 mL | CC(=O)C | C3H6O
solvent | H2SO4 | 33 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 22 mL | OS(=O)(=O)O | H2O4S
solvent | brine | [Cl-].[Na+].O
product | (R)-4-methyl-heptanoic acid | C[C@@H](CCC(=O)O)CCC | C8H16O2
